// The array module. Compared to the ones in the `generic` module, the functions here are more restricted and easier to compose.
open loop
open generic

// Creates an empty array.
inl empty forall (ar : * -> * -> *) {create} dim {number} el. : ar dim el = empty
// Creates an array with a single element.
inl singleton forall (ar : * -> * -> *) {create; set} dim {number} el. : el -> ar dim el = singleton
// Initializes array using the given function.
inl init forall (ar : * -> * -> *) {create; set} dim {number} el. : dim -> (dim -> el) -> ar dim el = init
// Applies a function to each element of the array, threading an accumulator argument through the computation. 
// If the input function is f and the elements are i0...iN then computes f (... (f s i0)...) iN
inl fold forall (ar : * -> * -> *) {index; length} dim {number} el s. : _ -> _ -> ar dim el -> s = fold
// Applies a function to each element of the two arrays, threading an accumulator argument through the computation.
inl fold2 forall (ar : * -> * -> *) {index; length} dim {number} s. : _ -> _ -> ar dim _ -> ar dim _ -> s = fold2
// Similar to fold with the intial state as the first element of the array.
inl reduce forall (ar : * -> * -> *) {index; length} dim {number} el. : _ -> ar dim el -> el = reduce
// Same as fold from the other direction.
inl foldBack forall (ar : * -> * -> *) {index; length} dim {number} el s. : _ -> ar dim el -> _ -> s = foldBack
// Maps an array.
inl map forall (ar : * -> * -> *) {index; length; create; set} dim {number} el el'. : _ -> ar dim el -> ar dim el' = map
// Maps an array. Provides the index as the first argument.
inl mapi forall (ar : * -> * -> *) {index; length; create; set} dim {number} el el'. : _ -> ar dim el -> ar dim el' = mapi
// Iterates over an array.
inl iter forall (ar : * -> * -> *) {index; length; create; set} dim {number} el. : _ -> ar dim el -> _ = iter
// Iterates over an array. Provides the index as the first argument.
inl iteri forall (ar : * -> * -> *) {index; length; create; set} dim {number} el. : _ -> ar dim el -> _ = iteri
// Iterates over two arrays.
inl iter2 forall (ar : * -> * -> *) {index; length; create; set} dim {number} el el'. : _ -> ar dim el -> ar dim el' -> _ = iter2
// Iterates over two arrays. Provides the index as the first argument.
inl iter2i forall (ar : * -> * -> *) {index; length; create; set} dim {number} el el'. : _ -> ar dim el -> ar dim el' -> _ = iteri2
// Filters the elements of an array using the function.
inl filter forall (ar : * -> * -> *) {create; set; index; length} dim {number} el. : _ -> ar dim el -> ar dim el = filter
// Picks out the elements from the array.
inl choose forall (ar : * -> * -> *) {create; set; index; length} dim {number} el el'. : _ -> ar dim el -> ar dim el' = choose
// Concatenates an array of arrays.
inl concat' forall (ar : * -> * -> *) {create; set; index; length} dim {number} el. : _ dim (ar dim el) -> ar dim el = concat
// Concatenates an array of arrays.
inl concat forall (ar : * -> * -> *) {create; set; index; length} dim {number} el. : ar dim (_ dim el) -> ar dim el = concat
// Appends two arrays.
inl append forall (ar : * -> * -> *) {create; set; index; length} dim {number} el. : ar dim el -> ar dim el -> ar dim el = append
// Finds the index of the true applicant.
inl findIndex forall (ar : * -> * -> *) {index; length} dim {number} el. : _ -> ar dim el -> dim = findIndex
// Slices an array between a range.
inl slice forall (ar : * -> * -> *) {create; set; index; length} dim {number} el. : _ -> ar dim el -> ar dim el = slice
// Slices an array from the start of a range.
inl sliceFrom forall (ar : * -> * -> *) {create; set; index; length} dim {number} el. : _ -> ar dim el -> ar dim el = sliceFrom
// Applies the mapping function to each element of the two arrays producing a new array with the result of the applications.
inl map2 forall (ar : * -> * -> *) {create; set; index; length} dim {number}. : _ -> ar dim _ -> ar dim _ -> ar dim _ = map2
// Applies the mapping function to each element of the two arrays producing a new array with the result of the applications. Provides the index as the first argument.
inl mapi2 forall (ar : * -> * -> *) {create; set; index; length} dim {number}. : _ -> ar dim _ -> ar dim _ -> ar dim _ = mapi2
// Initializes the array while threading the state through the loop.
inl initFold forall (ar : * -> * -> *) {create; set} dim {number} el s. : _ -> _ -> _ -> ar dim el * s = initFold
// Folds over the array while producing the residual array resulting from that operation.
inl mapFold forall (ar : * -> * -> *) {create; set; index; length} dim {number} el s. : _ -> _ -> ar dim _ -> ar dim el * s = mapFold
// Folds over the two arrays while producing the residual array resulting from that operation.
inl mapFold2 forall (ar : * -> * -> *) {create; set; index; length} dim {number} el s. : _ -> _ -> ar dim _ -> ar dim _ -> ar dim el * s = mapFold2
// Converts the array to an list.
inl toList forall (ar : * -> * -> *) {index; length} dim {number} el. : ar dim el -> list el = toList
// Returns true if the applying the checker function to every element of the array returns true.
inl forall' forall (ar : * -> * -> *) {index; length} dim {number} el. : _ -> ar dim el -> bool = forall'
// Returns true if the applying the checker function to every element pair of the two arrays returns true.
inl forall2 forall (ar : * -> * -> *) {index; length} dim {number}. : _ -> ar dim _ -> ar dim _ -> bool = forall2
// Returns true if the applying the checker function to every element of the array returns true.
inl exists forall (ar : * -> * -> *) {index; length} dim {number} el. : _ -> ar dim el -> bool = exists
// Returns true if the applying the checker function to every element pair of the two arrays returns true.
inl exists2 forall (ar : * -> * -> *) {index; length} dim {number}. : _ -> ar dim _ -> ar dim _ -> bool = exists2
// Removes the element at index.
inl removeAtIndex forall (ar : * -> * -> *) {create; set; index; length} dim {number} el. : dim -> ar dim el -> ar dim el = removeAtIndex
// Does an inplace map of the array.
inl mapInplace forall (ar : * -> * -> *) {index; set; length} dim {number} el. : _ -> ar dim el -> () = mapInplace